US07645789B2
To a solution of methyl 2-tert-butyl-5-nitro-1H-indole-7-carboxylate (6.15 g, 22.3 mmol) and dichloromethane (30 ml) was added DIBAL-H (1.0 M, 20 mL, 20 mmol) at 78° C. The mixture was stirred for 1 h before water (10 mL) was added slowly. The resulting mixture was extracted with EtOAc (120 mL×3). The combined organic extracts were dried over anhydrous Na2SO4 and evaporated under vacuum to give (2-tert-butyl-5-nitro-1H-indol-7-yl)methanol (4.0 g, 73%), which was used in the next step directly.

reactant | methyl 2-tert-butyl-5-nitro-1H-indole-7-carboxylate | 22.3 mmol, 6.15 g | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])C(=O)OC | C14H16N2O4
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | DIBAL-H | 20 mmol, 1.0 M, 20 mL | CC(C)C[AlH]CC(C)C
solvent | water | 10 mL | O | H2O
product | (2-tert-butyl-5-nitro-1H-indol-7-yl)methanol | 4.0 g, 73% | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])CO | C13H16N2O3
